US04442108
(a) N-[2-(3,4-diethoxyphenyl)ethyl]-3,4-diisopropoxyphenyl acetamide
A mixture of 2-(3,4-diethoxyphenyl)-ethylamine (40.7 g, 0.195 mole) and ethyl 3,4-diisopropoxyphenylacetate (55.7 g, 0.195 mole) was heated with stirring at 160° C. for 20 hours, allowed to cool and the resulting oil taken up in 700 ml of chloroform. The organic solution was washed 3 times with 100 ml of N hydrochloric acid and then with water to pH 7. The chloroform solution was dried over magnesium sulphate, the solvent removed under reduced pressure and purification effected by chromatography over silica gel. 64.5 g (yield 72%) of product was obtained sufficiently pure to be used in step (b) below.

reactant | 2-(3,4-diethoxyphenyl)-ethylamine | 0.195 mole, 40.7 g | C(C)OC=1C=C(C=CC1OCC)CCN | C12H19NO2
reactant | ethyl 3,4-diisopropoxyphenylacetate | 0.195 mole, 55.7 g | C(C)(C)OC=1C=C(C=CC1OC(C)C)CC(=O)OCC | C16H24O4
solvent | chloroform | 700 ml | C(Cl)(Cl)Cl | CHCl3
product | N-[2-(3,4-diethoxyphenyl)ethyl]-3,4-diisopropoxyphenyl acetamide | 64.5 g, yield 72% | C(C)OC=1C=C(C=CC1OCC)CCNC(CC1=CC(=C(C=C1)OC(C)C)OC(C)C)=O | C26H37NO5
